US06727264B1
N-(3-{1-[(1,5-DIMETHYL-3-OXO-2-PHENYL-2,3-DIHYDRO-1H-PYRAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 447.2 (M+H)+.

reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde | CN1N(C(C(=C1C)C=O)=O)C1=CC=CC=C1 | C12H12N2O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(1,5-DIMETHYL-3-OXO-2-PHENYL-2,3-DIHYDRO-1H-PYRAZOL-4-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CN1N(C(C(=C1C)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O)C1=CC=CC=C1 | C27H34N4O2
